US07723331B2
c) tert-Butyl (2R)-2-{[(6-{[(methylsulfonyl)oxy]methyl}pyridin-2-yl)oxy]methyl}pyrrolidine-1-carboxylate
tert-Butyl (2R)-2-({[6-(hydroxymethyl)pyridin-2-yl]oxy}methyl)pyrrolidine-1-carboxylate (430 mg, 1.4 mmol) was dissolved in DCM (15 mL) and MsCl (240 mg, 2.1 mmol) was added. The reaction mixture was cooled to 0° C. and DIPEA (0.72 mL, 4.1 mmol) were added. The reaction mixture was stirred 2 h at ambient temperature and water was added. The organic phase was separated and evaporated. The residue was purified by flash chromatography using a gradient of EtOAc/heptane to give the title compound as a clear oil. Yield: 420 mg (78%). 1H NMR (399.961 MHz, CDCl3) δ 7.61 (t, J=8.2 Hz, 1H), 7.01 (d, J=6.6 Hz, 1H), 6.72 (d, J=8.5 Hz, 1H), 5.20 (s, 2H), 4.49-4.30 (m, 1H), 4.27-4.06 (m, 2H), 3.50-3.27 (m, 2H), 3.07 (s, 3H), 2.04-1.90 (m, 3H), 1.90-1.81 (m, 1H), 1.46 (s, 9H). MS (ESI+) 387.2 (M+1H+).

reactant | tert-Butyl (2R)-2-({[6-(hydroxymethyl)pyridin-2-yl]oxy}methyl)pyrrolidine-1-carboxylate | 1.4 mmol, 430 mg | OCC1=CC=CC(=N1)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C16H24N2O4
reactant | MsCl | 2.1 mmol, 240 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | DIPEA | 4.1 mmol, 0.72 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl (2R)-2-{[(6-{[(methylsulfonyl)oxy]methyl}pyridin-2-yl)oxy]methyl}pyrrolidine-1-carboxylate | CS(=O)(=O)OCC1=CC=CC(=N1)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C17H26N2O6S
